US06781009B2
10.0 g of potassium cyanide was dissolved in 400 ml of methanol, to which then 24.8 g of methyl 4-bromo-3-oxobutanoate was added dropwise from a dropping funnel over 20 minutes. Methyl 4-bromo-3-oxobutanoate remaining in the dripping funnel was dissolved further in 10 ml of methanol and added dropwise, and the mixture was stirred with cooling on ice for 1 hour and at room temperature for 2 hours. Subsequently, the reaction mixture was cooled on ice, and treated dropwise with 3 ml of a concentrated hydrochloric acid. The reaction mixture was extracted three times with diethylether (2000 ml of diethylether in total). The organic layers were combined, washed twice with 100 ml of saturated brine, dried over magnesium sulfate, concentrated under reduced pressure to obtain 15.3 g of methyl 4-cyano-3-oxobutanoate (purity: 83%).

reactant | potassium cyanide | 10.0 g | [C-]#N.[K+]
reactant | methyl 4-bromo-3-oxobutanoate | 24.8 g | BrCC(CC(=O)OC)=O | C5H7BrO3
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | methanol | 400 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | methyl 4-cyano-3-oxobutanoate | 15.3 g | C(#N)CC(CC(=O)OC)=O | C6H7NO3
